US08609653B2
2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(4-fluoro-3-methylbenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid
The title compound was prepared in a manner similar to that described in Example 27, Step H from methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate and 4-(bromomethyl)-1-fluoro-2-methylbenzene. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.50-7.43 (m, 1 H), 7.23-7.17 (m, 1 H), 7.17-7.03 (m, 3 H), 7.00-6.90 (m, 2 H), 6.30 (dd, J=3.3, 10.1 Hz, 1 H), 5.63-5.53 (m, 2 H), 5.49-5.38 (m, 1 H), 4.29 (t, J=4.9 Hz, 2 H), 2.97-2.82 (m, 2 H), 2.80 (s, 3 H), 2.25 (s, 3 H), 2.14-2.04 (m, 2 H), 1.03-0.91 (s, 9 H); LC/MS (m/z) ES+=517.38 (M+1).

reactant | methyl 2-(tert-butoxy)-2-(4-(chroman-6-yl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetate | C(C)(C)(C)OC(C(=O)OC)C=1C(=C2C(=NC1C)NC=C2)C=2C=C1CCCOC1=CC2 | C24H28N2O4
reactant | 4-(bromomethyl)-1-fluoro-2-methylbenzene | BrCC1=CC(=C(C=C1)F)C | C8H8BrF
product | 2-(tert-butoxy)-2-(4-(chroman-6-yl)-1-(4-fluoro-3-methylbenzyl)-6-methyl-1H-pyrrolo[2,3-b]pyridin-5-yl)acetic acid | C(C)(C)(C)OC(C(=O)O)C=1C(=C2C(=NC1C)N(C=C2)CC2=CC(=C(C=C2)F)C)C=2C=C1CCCOC1=CC2 | C31H33FN2O4
